US05436252
2,4-Dihydro-4-methyl-5-(4-pyridinyl)-3H-1,2,4-triazol-3-one
When, in the procedure of Example 4, 1-(4-pyridoyl)-4-methylsemicarbazide is substituted for 1-(4-chlorobenzoyl)-4-ethylsemicarbazide, the title compound is obtained. Mp 249°-251° C.

reactant | 1-(4-pyridoyl)-4-methylsemicarbazide | N1=CC=C(C=C1)C(=O)NNC(=O)NC | C8H10N4O2
reactant | 1-(4-chlorobenzoyl)-4-ethylsemicarbazide | ClC1=CC=C(C(=O)NNC(=O)NCC)C=C1 | C10H12ClN3O2
product | 2,4-Dihydro-4-methyl-5-(4-pyridinyl)-3H-1,2,4-triazol-3-one | CN1C(NN=C1C1=CC=NC=C1)=O | C8H8N4O
